US07026340B2
By using (3,3,3-trifluoropropyl)malononitrile (480 mg), N,N-dimethylformamide (6 ml), potassium carbonate (420 mg) and 5,6-dichloro-3-(bromomethyl)pyridine (720 mg) according to the similar method described in Production Example 4 was obtained 698 mg of 2-((5,6-dichloro-3-pyridyl)methyl)-2-(3,3,3-trifluoropropyl)malononitrile represented by the following formula (hereinafter referred to as the present invention compound (15)).

reactant | (3,3,3-trifluoropropyl)malononitrile | 480 mg | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | potassium carbonate | 420 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5,6-dichloro-3-(bromomethyl)pyridine | 720 mg | ClC=1C=C(C=NC1Cl)CBr | C6H4BrCl2N
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 2-((5,6-dichloro-3-pyridyl)methyl)-2-(3,3,3-trifluoropropyl)malononitrile | 698 mg | ClC=1C=C(C=NC1Cl)CC(C#N)(C#N)CCC(F)(F)F | C12H8Cl2F3N3
